US06653313B2
E. Methyl 3-oxo-5-(2-{[2-(1-pyrrolidinyl)ethoxy]methyl}phenyl)pentanoate
To a stirred solution of 3-(2-{[2-(1-pyrrolidinyl)ethoxy]methyllphenyl)propanoic acid (˜26.5 mmol) in anhydrous dimethylformamide (50 ml) was added portionwise carbonyldiimidazole (CDI)(4.30 g, 26.5 mmol) at room temperature. The reaction mixture was heated at 50° C. for 40 min. After cooling to r.t., to the mixture was added magnesium chloride (2.78 g, 29.2 mmol) then potassium methyl malonate (4.55 g, 29.2 mmol) at 0° C. The reaction mixture was heated at 50° C. for 15 h. The mixture was quenched with ethyl acetate-hexane (1:1)(50 ml) and aqueous solution of tri-sodium citrate (21.5 g, 72.9 mmol) in water (90 ml) and stirred at r.t. for 2 h. The organic layer was separated and the aqueous layer was extracted with ethyl acetate-hexane (1:1)(×4). The combined solution was washed with water (×3), brine, dried over MgSO4 and concentrated in vacuo to afford the titled crude compound (7.65 g) as a dark yellow oil.

reactant | carbonyldiimidazole | 26.5 mmol, 4.30 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium chloride | 29.2 mmol, 2.78 g | [Cl-].[Mg+2].[Cl-]
reactant | potassium methyl malonate | 29.2 mmol, 4.55 g | C(CC(=O)[O-])(=O)OC.[K+]
reactant | tri-sodium citrate | 72.9 mmol, 21.5 g | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-].[Na+].[Na+].[Na+]
reactant | ethyl acetate hexane | 50 ml | C(C)(=O)OCC.CCCCCC
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 90 ml | O | H2O
product | Methyl 3-oxo-5-(2-{[2-(1-pyrrolidinyl)ethoxy]methyl}phenyl)pentanoate | 7.65 g | O=C(CC(=O)OC)CCC1=C(C=CC=C1)COCCN1CCCC1 | C19H27NO4
